US06451821B1
The process is performed as in Example 2, starting with 1.82 g of (2R)-2-amino-3-(3-carboxyphenyl)-1-propanol hydrochloride in 20 cm3 of ethanol, 4.2 cm3 of triethylamine and 1.7 cm3 of tert-butyl isothiocyanate. After heating for 21 hours at a temperature in the region of 60° C. and an identical work-up, 2.31 g of N-(tert-butyl)-N′-[(1R)-2-hydroxy-1-(3-carboxybenzyl)ethyl]thiourea are obtained in the form of a light brown foam. (Rf=0.33 in a 12/6/1 by volume mixture of chloroform/methanol/aqueous ammonia, on a Merck 60F254R silica plate).

reactant | (2R)-2-amino-3-(3-carboxyphenyl)-1-propanol hydrochloride | 1.82 g | Cl.N[C@@H](CO)CC1=CC(=CC=C1)C(=O)O
reactant | tert-butyl isothiocyanate | 1.7 cm3 | C(C)(C)(C)N=C=S | C5H9NS
solvent | ethanol | 20 cm3 | C(C)O | C2H6O
solvent | triethylamine | 4.2 cm3 | C(C)N(CC)CC | C6H15N
product | N-(tert-butyl)-N′-[(1R)-2-hydroxy-1-(3-carboxybenzyl)ethyl]thiourea | 2.31 g | C(C)(C)(C)NC(=S)N[C@@H](CO)CC1=CC(=CC=C1)C(=O)O | C15H22N2O3S
